US08030340B2
Cyclopropanesulfonic acid N-{1-[2-methoxypyridin-4-yl]-1-[(1-pyridin-3-yl-1H-indazol-5-yl)oxy]propan-2-yl}amide
To a stirred solution of 1-[2-methoxypyridin-4-yl]-1-[1-(pyridin-3-yl)indazol-5-yl]oxypropan-2-amine (41 mg, 110 μmol) in dichloromethane (4 ml) was added triethylamine (36 μl), followed by cyclopropanesulfonic acid chloride (23 mg, i 60 μmol) and DMAP (1.3 mg, 11 μmol).The stirring was continued for 20 h at room temp. The reaction mixture was poured into sat. NH4Cl solution and extracted with dichloromethane then the solvent was removed i.vac., and the product purified by chromatography on silica gel. Yield 4 mg (7.6%) as a racemic mixture of one diastereomer.

reactant | 1-[2-methoxypyridin-4-yl]-1-[1-(pyridin-3-yl)indazol-5-yl]oxypropan-2-amine | 110 μmol, 41 mg | COC1=NC=CC(=C1)C(C(C)N)OC=1C=C2C=NN(C2=CC1)C=1C=NC=CC1 | C21H21N5O2
reactant | triethylamine | 36 μl | C(C)N(CC)CC | C6H15N
reactant | cyclopropanesulfonic acid chloride | 60 μmol, 23 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | DMAP | 11 μmol, 1.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Cyclopropanesulfonic acid N-{1-[2-methoxypyridin-4-yl]-1-[(1-pyridin-3-yl-1H-indazol-5-yl)oxy]propan-2-yl}amide | COC1=NC=CC(=C1)C(C(C)NS(=O)(=O)C1CC1)OC=1C=C2C=NN(C2=CC1)C=1C=NC=CC1 | C24H25N5O4S
